US04935049
At 10° C., a solution of 4.1 g (0.06 mol) of 1,2,4-triazole in 30 ml of dimethylformamide is added dropwise and with stirring to a suspension of 1.8 g (0.06 mol) of sodium hydride in 20 ml of dimethylformamide, and, after an hour, a solution of 12.6 g (0.04 mol) of 2-bromo-1-(4-fluorophenyl)-1-(2-methylthiazol-4-yl)-ethanol in 30 ml of dimethylformamide is likewise added dropwise at 0° C. and with stirring. When the addition is complete, the mixture is stirred for an hour at 20° C., for a further two hours at 70° C., for two hours at 90° C. and for a further hour at 110° C. For working up, the reaction mixture is cooled and evaporated in vacuo, the residue is taken up in 300 ml of dichloromethane, the solution is washed twice using 200 ml of water each time, dried over sodium sulphate and concentrated in vacuo the residue is chromatographed over silica gel (eluent: dichloromethane/methanol 10:1), and the product thus obtained is crystallized by stirring with 150 ml of diisopropyl ether. 3.5 g (29% of theory) of 1-(4-fluorophenyl)-1-(2-methylthiazol-4-yl)-2-(1,2,4-triazol-1-yl)-ethanol of melting point 120° C. are obtained.

reactant | 1,2,4-triazole | 0.06 mol, 4.1 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | 0.06 mol, 1.8 g | [H-].[Na+]
reactant | 2-bromo-1-(4-fluorophenyl)-1-(2-methylthiazol-4-yl)-ethanol | 0.04 mol, 12.6 g | BrCC(O)(C=1N=C(SC1)C)C1=CC=C(C=C1)F | C12H11BrFNOS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(4-fluorophenyl)-1-(2-methylthiazol-4-yl)-2-(1,2,4-triazol-1-yl)-ethanol | 3.5 g, 29% | FC1=CC=C(C=C1)C(CN1N=CN=C1)(O)C=1N=C(SC1)C | C14H13FN4OS
